US20010055553A1
2-Methoxyphenol (5 mol, 621 g), dry Amberlyst 15 (50 g) and tripropylene (5.5 mol, 694 g, 951 ml) were placed in a 3000 ml 3N RBF. The mixture was heated and maintained at 120° C. under vigorous stirring for 7 hrs. After cooling to ambient temperature, the reaction mixture was filtered and distilled to obtain 2-methoxy-4-nonylphenol in vacuo.

reactant | 2-Methoxyphenol | 5 mol, 621 g | COC1=C(C=CC=C1)O | C7H8O2
reactant | tripropylene | 5.5 mol, 951 ml, 694 g | CCCCC(C)C(C)C.CCCC(C)CC(C)C.CC(C)CC(C)C(C)C | 3C9H20
product | 2-methoxy-4-nonylphenol | COC1=C(C=CC(=C1)CCCCCCCCC)O | C16H26O2
